US08859773B2
To a solution of 1-tert-butyl 4-ethyl 4-((3-iodo-1-isopropyl-1H-pyrazol-4-yl)methyl)piperidine-1,4-dicarboxylate (455 mg, 0.9 mmol) in methanol (20 mL) was added 2 N NaOH (5 mL). After stirring for 18 hours at room temperature, the methanol was removed under reduced pressure and the resultant slurry was taken up in 20 mL water, acidified with 2 N HCl and extracted with ethyl acetate (2×30 mL). The combined organic extracts were dried over sodium sulfate, filtered and concentrated to yield 1-(tert-butoxycarbonyl)-4-((3-iodo-1-isopropyl-1H-pyrazol-4-yl)methyl)piperidine-4-carboxylic acid (430 mg) as a colorless solid. −APCI (M−H) 476.1; 1H NMR (400 MHz, CDCl3, δ): 7.11 (s, 1H), 4.45 (dquin, J=13.4, 6.7 Hz, 1H), 3.95 (br. s., 2H), 2.91 (m, 2H), 2.69 (s, 2H), 2.08 (m, 2H), 1.47 (m, 8H).

reactant | 1-tert-butyl 4-ethyl 4-((3-iodo-1-isopropyl-1H-pyrazol-4-yl)methyl)piperidine-1,4-dicarboxylate | 0.9 mmol, 455 mg | IC1=NN(C=C1CC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC)C(C)C | C20H32IN3O4
reactant | NaOH | 2 N, 5 mL | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 1-(tert-butoxycarbonyl)-4-((3-iodo-1-isopropyl-1H-pyrazol-4-yl)methyl)piperidine-4-carboxylic acid | 430 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)CC=1C(=NN(C1)C(C)C)I | C18H28IN3O4
